US09079866B2
5-[3-Fluoro-2′-(trifluoromethyl)biphenyl-4-yl]pyrazin-2-amine
The title compound was prepared using analogous conditions to those described in Example 1 utilizing 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine and 2-trifluoromethylbromobenzene. MS (ESI): mass calcd. for C17H11F4N3, 333.09; m/z found, 334.1 [M+H]+. 1H NMR (400 MHz, CD3OD) δ 8.40 (s, 1H), 8.09 (s, 1H), 7.91 (m, 1H), 7.81 (d, J=7.6, 1H), 7.69 (m, 1H), 7.59 (m, 1H), 7.44 (d, J=7.8, 1H), 7.23 (d, J=8.7, 1H), 7.17 (d, J=11.8, 1H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | 2-trifluoromethylbromobenzene | FC(C1=C(C=CC=C1)Br)(F)F | C7H4BrF3
product | 5-[3-Fluoro-2′-(trifluoromethyl)biphenyl-4-yl]pyrazin-2-amine | FC=1C=C(C=CC1C=1N=CC(=NC1)N)C1=C(C=CC=C1)C(F)(F)F | C17H11F4N3
